*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 3.9
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_0 1 2 3 4 REF
C_C1 1 REF 0.6690226758102pf
C_C2 1 2 21.317471500831pf
C_C3 1 3 0.0281702672809pf
C_C4 1 4 0.292596647492pf
C_C5 2 REF 0.953741532989pf
C_C6 2 3 0.1391545958282pf
C_C7 3 REF 1.0467896823084pf
C_C8 3 4 5.0046977316833pf
C_C9 4 REF 1.0336916086207pf
L_L1 3 5 1.2917758791382nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_1 1 2 3 4 REF
C_C1 1 REF 0.5653529835746pf
C_C2 1 2 21.879224164321pf
C_C3 1 3 0.0257120425956pf
C_C4 1 4 0.2984907898588pf
C_C5 2 REF 0.8587155229193pf
C_C6 2 3 0.1426122154551pf
C_C7 3 REF 1.0458173790599pf
C_C8 3 4 3.6327479518723pf
C_C9 4 REF 1.0360391439138pf
L_L1 3 5 1.2928704587473nh
R_RL1 5 4 2.1510968054e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_2 1 2 3 4 REF
C_C1 1 REF 0.491523070032pf
C_C2 1 2 22.486977708811pf
C_C3 1 3 0.0229545008785pf
C_C4 1 4 0.3052618749092pf
C_C5 2 REF 0.7950962775882pf
C_C6 2 3 0.1457342857833pf
C_C7 3 REF 1.0454802645407pf
C_C8 3 4 2.6798109677176pf
C_C9 4 REF 1.0379118919107pf
L_L1 3 5 1.2937764943108nh
R_RL1 5 4 1.0239055882e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_3 1 2 3 4 REF
C_C1 1 REF 0.4318755473096pf
C_C2 1 2 23.312057068434pf
C_C3 1 3 0.0193156436383pf
C_C4 1 4 0.3147757177614pf
C_C5 2 REF 0.7499878194743pf
C_C6 2 3 0.1492539270364pf
C_C7 3 REF 1.045635976943pf
C_C8 3 4 1.8653885042339pf
C_C9 4 REF 1.0396644260019pf
L_L1 3 5 1.2946866460253nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_4 1 2 3 4 REF
C_C1 1 REF 0.3915170834183pf
C_C2 1 2 24.377959216864pf
C_C3 1 3 0.0149458688887pf
C_C4 1 4 0.3272429855592pf
C_C5 2 REF 0.7287293493815pf
C_C6 2 3 0.1530893214623pf
C_C7 3 REF 1.0462179729878pf
C_C8 3 4 1.2183783986292pf
C_C9 4 REF 1.0411113404541pf
L_L1 3 5 1.295587440227nh
R_RL1 5 4 -1.432514136e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_5 1 2 3 4 REF
C_C1 1 REF 0.3720108474445pf
C_C2 1 2 25.542587023827pf
C_C3 1 3 0.0106080864567pf
C_C4 1 4 0.3408628582374pf
C_C5 2 REF 0.7299645839971pf
C_C6 2 3 0.156766681673pf
C_C7 3 REF 1.0469315862062pf
C_C8 3 4 0.7950451374247pf
C_C9 4 REF 1.0420403757696pf
L_L1 3 5 1.2963059268352nh
R_RL1 5 4 -2.409706394e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_6 1 2 3 4 REF
C_C1 1 REF 0.3632119555081pf
C_C2 1 2 26.817799405862pf
C_C3 1 4 0.3556531789491pf
C_C4 2 REF 0.743429375534pf
C_C5 2 3 0.1605279884439pf
C_C6 3 REF 1.0475876663606pf
C_C7 3 4 0.5086852474967pf
C_C8 4 REF 1.0426252314318pf
L_L1 3 5 1.2968878797338nh
R_RL1 5 4 -3.134806911e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_7 1 2 3 4 REF
C_C1 1 REF 0.358217854266pf
C_C2 1 2 28.478941818855pf
C_C3 1 4 0.3746828858594pf
C_C4 2 REF 0.7666035607657pf
C_C5 2 3 0.1653350555259pf
C_C6 3 REF 1.0481703885473pf
C_C7 3 4 0.2836209884738pf
C_C8 4 REF 1.0430318807347pf
L_L1 3 5 1.2974274366911nh
R_RL1 5 4 -3.672177627e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_8 1 2 3 4 REF
C_C1 1 REF 0.3527619310731pf
C_C2 1 2 30.618561969936pf
C_C3 1 4 0.3988683167275pf
C_C4 2 REF 0.7962266101841pf
C_C5 2 3 0.1716453809374pf
C_C6 3 REF 1.0485716795596pf
C_C7 3 4 0.1134619305341pf
C_C8 4 REF 1.0432937370425pf
L_L1 1 5 95.900458004583nh
R_RL1 5 2 6.6530182936522
L_L2 3 6 1.2979065569433nh
R_RL2 6 4 -3.947724144e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_9 1 2 3 4 REF
C_C1 1 REF 0.3421218373004pf
C_C2 1 2 33.450152915948pf
C_C3 1 4 0.4304543501174pf
C_C4 2 REF 0.8303277727214pf
C_C5 2 3 0.1803788997981pf
C_C6 3 REF 1.0487188991pf
C_C7 4 REF 1.0434571309693pf
L_L1 1 5 60.959259801625nh
R_RL1 5 2 3.4455062930397
L_L2 3 6 1.2982585971646nh
R_RL2 6 4 -3.860993274e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_10 1 2 3 4 REF
C_C1 1 REF 0.3221483813662pf
C_C2 1 2 37.237744269054pf
C_C3 1 4 0.4722649656377pf
C_C4 2 REF 0.8682723564423pf
C_C5 2 3 0.1926741008856pf
C_C6 3 REF 1.0486089150457pf
C_C7 4 REF 1.0435867879234pf
L_L1 1 5 38.151031699138nh
R_RL1 5 2 1.366932651903
L_L2 3 6 1.2981057759289nh
R_RL2 6 4 -3.378709243e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_11 1 2 3 4 REF
C_C1 1 REF 0.2876209831531pf
C_C2 1 2 42.570223758213pf
C_C3 1 4 0.5306892891027pf
C_C4 2 REF 0.9131336200838pf
C_C5 2 3 0.2108247554696pf
C_C6 3 REF 1.0482564282887pf
C_C7 4 REF 1.0437562438176pf
L_L1 1 5 23.356188180155nh
R_RL1 5 2 0.3889150174891
L_L2 3 6 1.297800436257nh
R_RL2 6 4 -2.506460532e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_12 1 2 3 4 REF
C_C1 1 REF 0.2321299705634pf
C_C2 1 2 50.377216543512pf
C_C3 1 4 0.6158861331122pf
C_C4 2 REF 0.9719545534563pf
C_C5 2 3 0.238290256528pf
C_C6 3 REF 1.0476988492617pf
C_C7 4 REF 1.0440616504972pf
L_L1 1 5 13.867866761591nh
R_RL1 5 2 0.2917120443963
L_L2 3 6 1.2973321644322nh
R_RL2 6 4 -1.304132275e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_13 1 2 3 4 REF
C_C1 1 REF 0.1404142720304pf
C_C2 1 2 62.876475517134pf
C_C3 1 4 0.7521065049082pf
C_C4 2 REF 1.0618642634706pf
C_C5 2 3 0.2830890772435pf
C_C6 3 REF 1.0469285903737pf
C_C7 4 REF 1.0446852318675pf
R_R1 1 2 629.41227255518
L_L1 1 5 8.3918861938246nh
R_RL1 5 2 0.3816479628767
L_L2 3 6 1.2965459607945nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_14 1 2 3 4 REF
C_C1 1 2 84.762982808612pf
C_C2 1 4 0.9907021697973pf
C_C3 2 REF 1.2186599402227pf
C_C4 2 3 0.3619943745763pf
C_C5 3 REF 1.0458689424327pf
C_C6 4 REF 1.0460045861052pf
R_R1 1 2 297.48776277747
L_L1 1 5 4.1918685129962nh
R_RL1 5 2 -0.501933794876
L_L2 3 6 1.2952787090135nh
R_RL2 6 4 1.3572963326e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_15 1 2 3 4 REF
C_C1 1 2 130.78887219154pf
C_C2 1 4 1.4928827998839pf
C_C3 2 REF 1.5515494335284pf
C_C4 2 3 0.5277329277199pf
C_C5 3 REF 1.044160886949pf
C_C6 4 REF 1.049193169117pf
R_R1 1 2 140.78439551434
L_L1 1 5 1.7917020340788nh
R_RL1 5 2 -0.131246412302
L_L2 1 6 75.84394290647nh
R_RL2 6 3 -0.14731638753
L_L3 1 7 75.100810375612nh
R_RL3 7 4 -0.147793516093
L_L4 2 8 75.912195183529nh
R_RL4 8 3 0.0108170850017
L_L5 2 9 75.171765486565nh
R_RL5 9 4 0.0106142490313
L_L6 3 10 1.2927040084587nh
R_RL6 10 4 2.5908577008e-5
Kn_K1 L_L1 L_L2 0.0739222686526
Kn_K2 L_L1 L_L3 0.0741706014952
Kn_K3 L_L1 L_L4 -0.079741355154
Kn_K4 L_L1 L_L5 -0.080249559749
Kn_K5 L_L2 L_L3 0.9914479283619
Kn_K6 L_L2 L_L4 0.9881936448198
Kn_K7 L_L2 L_L5 0.9795674004861
Kn_K8 L_L2 L_L6 -0.102802318669
Kn_K9 L_L3 L_L4 0.9796072671386
Kn_K10 L_L3 L_L5 0.9880770960911
Kn_K11 L_L3 L_L6 0.02788831852
Kn_K12 L_L4 L_L5 0.9914557101125
Kn_K13 L_L4 L_L6 -0.102619671867
Kn_K14 L_L5 L_L6 0.0280122455341
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_16 1 2 3 4 REF
C_C1 1 2 276.62752810189pf
C_C2 1 4 3.0852684108028pf
C_C3 2 REF 2.6146713651082pf
C_C4 2 3 1.0512242191822pf
C_C5 3 REF 1.0398137544935pf
C_C6 4 REF 1.0602624603976pf
R_R1 1 2 48.569661531311
L_L1 1 5 72.739613856084nh
R_RL1 5 REF -3.683037486178
L_L2 1 6 0.5769185903328nh
R_RL2 6 2 -0.049276391427
L_L3 1 7 28.098781142191nh
R_RL3 7 3 -0.042365094625
L_L4 1 8 27.40590060607nh
R_RL4 8 4 -0.042970029406
L_L5 2 9 72.263846001472nh
R_RL5 9 REF -3.756949767655
L_L6 2 10 28.184903627953nh
R_RL6 10 3 0.0017895625568
L_L7 2 11 27.495780781257nh
R_RL7 11 4 0.0017344166262
L_L8 3 12 1.2849334329541nh
R_RL8 12 4 3.1797819144e-5
L_L9 4 13 99.421527830197nh
R_RL9 13 REF -3.736121888939
Kn_K1 L_L1 L_L2 0.0812505431008
Kn_K2 L_L1 L_L5 0.9960267074042
Kn_K3 L_L1 L_L9 0.8510960781885
Kn_K4 L_L2 L_L3 0.0609494938999
Kn_K5 L_L2 L_L4 0.0612426417229
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.08221383265
Kn_K8 L_L2 L_L7 -0.083709451514
Kn_K9 L_L2 L_L9 1.0
Kn_K10 L_L3 L_L4 0.9769261203798
Kn_K11 L_L3 L_L5 1.0
Kn_K12 L_L3 L_L6 0.989750966416
Kn_K13 L_L3 L_L7 0.9664994395207
Kn_K14 L_L3 L_L8 -0.164577851627
Kn_K15 L_L3 L_L9 1.0
Kn_K16 L_L4 L_L5 1.0
Kn_K17 L_L4 L_L6 0.9666704256253
Kn_K18 L_L4 L_L7 0.9894931124733
Kn_K19 L_L4 L_L8 0.0498847914512
Kn_K20 L_L4 L_L9 1.0
Kn_K21 L_L5 L_L9 0.8505565007616
Kn_K22 L_L6 L_L7 0.9769980026464
Kn_K23 L_L6 L_L8 -0.16401400843
Kn_K24 L_L6 L_L9 1.0
Kn_K25 L_L7 L_L8 0.0501192861641
Kn_K26 L_L7 L_L9 1.0
Kn_K27 L_L8 L_L9 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_17 1 2 3 4 REF
C_C1 1 2 1961.229155238pf
C_C2 1 4 21.484419918473pf
C_C3 2 REF 14.922673708036pf
C_C4 2 3 7.0882266172633pf
C_C5 3 REF 0.9951768329173pf
C_C6 4 REF 1.1940577264824pf
R_R1 1 REF -317.1679750964
R_R2 1 2 2.7039396849056
R_R3 1 3 -942.5488395117
R_R4 1 4 235.62932476238
R_R5 2 REF 311.73439219063
R_R6 2 3 942.28253742099
R_R7 2 4 -235.6149673321
L_L1 1 5 6.2118161670215nh
R_RL1 5 REF -0.029677192922
L_L2 1 6 0.055022638565nh
R_RL2 6 2 -0.010626629363
L_L3 1 7 3.7092500779551nh
R_RL3 7 3 -6.229923298e-3
L_L4 1 8 3.0905726960399nh
R_RL4 8 4 -7.380987917e-3
L_L5 2 9 6.176842542791nh
R_RL5 9 REF -0.043042969163
L_L6 2 10 3.721621176711nh
R_RL6 10 3 -4.771749251e-4
L_L7 2 11 3.1076591763427nh
R_RL7 11 4 -2.32426305e-4
L_L8 3 12 9.8593719676576nh
R_RL8 12 REF -0.037652057812
L_L9 3 13 1.2003697514152nh
R_RL9 13 4 -1.547944009e-5
L_L10 4 14 9.2339209226445nh
R_RL10 14 REF -0.039055153712
Kn_K1 L_L1 L_L2 0.0769687574931
Kn_K2 L_L1 L_L5 0.9955625953609
Kn_K3 L_L1 L_L8 0.7898100292437
Kn_K4 L_L1 L_L10 0.8156731372527
Kn_K5 L_L2 L_L3 0.047205321022
Kn_K6 L_L2 L_L4 0.045997387368
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.074465096501
Kn_K9 L_L2 L_L7 -0.087191228208
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.826900150134
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9925967743144
Kn_K15 L_L3 L_L7 0.8183425585309
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.431035835261
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.819931740826
Kn_K21 L_L4 L_L7 0.9911266151808
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1510032755249
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.7890094191497
Kn_K26 L_L5 L_L10 0.8145324089692
Kn_K27 L_L6 L_L7 0.8275830403336
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.429203348728
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1518082918524
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2653664450386
Kn_K35 L_L8 L_L10 0.9376345445639
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_18 1 2 3 4 REF
C_C1 1 REF 20.815071785485pf
C_C2 1 3 10.018155841904pf
C_C3 2 4 30.326821124939pf
C_C4 3 REF 1.1184304732383pf
C_C5 4 REF 0.8161290597238pf
R_R1 1 REF 338.94491577544
R_R2 1 2 -3.136615480898
R_R3 1 4 -267.6438700559
R_R4 2 REF -344.2942149409
R_R5 2 4 267.68136982157
L_L1 1 5 3.6123514604754nh
R_RL1 5 REF -6.561129031e-3
L_L2 1 6 0.3637709521135nh
R_RL2 6 2 0.8384602518714
L_L3 1 7 2.556620762067nh
R_RL3 7 3 0.3795896235249
L_L4 1 8 2.0386236840588nh
R_RL4 8 4 0.5292741516505
L_L5 2 9 3.9484602544977nh
R_RL5 9 REF 0.9190434966188
L_L6 2 10 2.4548471830278nh
R_RL6 10 3 0.0896805095925
L_L7 2 11 1.8593850199758nh
R_RL7 11 4 0.0353627094209
L_L8 3 12 6.1678186494738nh
R_RL8 12 REF 0.4315042139728
L_L9 3 13 1.1419395629181nh
R_RL9 13 4 0.0124278266785
L_L10 4 14 5.6586771005631nh
R_RL10 14 REF 0.5917445978374
Kn_K1 L_L1 L_L2 0.012065548118
Kn_K2 L_L1 L_L5 0.9528292538875
Kn_K3 L_L1 L_L8 0.7651733777823
Kn_K4 L_L1 L_L10 0.7998347695771
Kn_K5 L_L2 L_L3 0.241370432979
Kn_K6 L_L2 L_L4 0.3152789560758
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.138624726345
Kn_K9 L_L2 L_L7 -0.112187300689
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0600952904032
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7563159139654
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9276035970062
Kn_K16 L_L3 L_L7 0.685169377318
Kn_K17 L_L3 L_L8 0.9095397725436
Kn_K18 L_L3 L_L9 -0.485743279208
Kn_K19 L_L3 L_L10 0.9507407804779
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6504685354596
Kn_K22 L_L4 L_L7 0.9076377893262
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2044675862244
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0378193554169
Kn_K27 L_L5 L_L7 0.0275262866579
Kn_K28 L_L5 L_L8 0.7762475751851
Kn_K29 L_L5 L_L9 -0.020325867059
Kn_K30 L_L5 L_L10 0.8195479952218
Kn_K31 L_L6 L_L7 0.7424143421145
Kn_K32 L_L6 L_L8 0.9844686956999
Kn_K33 L_L6 L_L9 -0.518843597821
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1875149880949
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.3110649336381
Kn_K39 L_L8 L_L10 0.9042806490733
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_19 1 2 3 4 REF
C_C1 1 2 347.18815911885pf
C_C2 1 4 3.8534631325393pf
C_C3 2 REF 3.136204319113pf
C_C4 2 3 1.3050239666518pf
C_C5 3 REF 1.0366420091689pf
C_C6 4 REF 1.0641441555635pf
R_R1 1 2 -102.1269624522
L_L1 1 5 30.021667881794nh
R_RL1 5 REF -0.323276335924
L_L2 1 6 0.1467311814312nh
R_RL2 6 2 0.0033376480731
L_L3 1 7 12.809555975249nh
R_RL3 7 3 -7.310023791e-4
L_L4 1 8 12.130017215184nh
R_RL4 8 4 -6.264223187e-4
L_L5 2 9 29.732398391937nh
R_RL5 9 REF -0.326374591103
L_L6 2 10 12.902500842635nh
R_RL6 10 3 0.0015402563452
L_L7 2 11 12.230786609966nh
R_RL7 11 4 0.0013794125638
L_L8 3 12 42.546313676606nh
R_RL8 12 REF -0.323043781434
L_L9 3 13 1.2682522593773nh
R_RL9 13 4 1.654710609e-5
L_L10 4 14 41.857544258077nh
R_RL10 14 REF -0.323574272934
Kn_K1 L_L1 L_L2 0.1038672293449
Kn_K2 L_L1 L_L5 0.9975561042006
Kn_K3 L_L1 L_L8 0.8360279063346
Kn_K4 L_L1 L_L10 0.8427480989893
Kn_K5 L_L2 L_L3 0.0196161395543
Kn_K6 L_L2 L_L4 0.0172256251013
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.0870956542
Kn_K9 L_L2 L_L7 -0.092375715862
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9494995240162
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9942997890336
Kn_K15 L_L3 L_L7 0.9434314125745
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.241625353947
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9442364621109
Kn_K21 L_L4 L_L7 0.9939852552914
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0750482323891
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8347117861465
Kn_K26 L_L5 L_L10 0.8413096640826
Kn_K27 L_L6 L_L7 0.9498782443463
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.239786353121
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0757317723462
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.133208472884
Kn_K35 L_L8 L_L10 0.985006798715
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_20 1 2 3 4 REF
C_C1 1 REF 0.0345977654229pf
C_C2 1 2 79.783371108738pf
C_C3 1 4 0.9314113620672pf
C_C4 2 REF 1.1888588121707pf
C_C5 2 3 0.3461068151283pf
C_C6 3 REF 1.0434822881973pf
C_C7 4 REF 1.0425786306546pf
R_R1 1 2 581.19652684775
L_L1 1 5 0.5780248983466nh
R_RL1 5 2 0.003684058417
L_L2 1 6 53.024140686581nh
R_RL2 6 3 0.0017443035861
L_L3 1 7 52.210054283814nh
R_RL3 7 4 0.0016804301944
L_L4 2 8 53.540227539923nh
R_RL4 8 3 0.007117293393
L_L5 2 9 52.733684007022nh
R_RL5 9 4 0.0070897850108
L_L6 3 10 1.2861603513856nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.098337306318
Kn_K2 L_L1 L_L5 -0.099769578123
Kn_K3 L_L2 L_L3 0.987807671911
Kn_K4 L_L2 L_L4 0.9945874782449
Kn_K5 L_L2 L_L5 0.9823054575663
Kn_K6 L_L2 L_L6 -0.127161589623
Kn_K7 L_L3 L_L4 0.9825208737167
Kn_K8 L_L3 L_L5 0.9945044295039
Kn_K9 L_L3 L_L6 0.0288041728119
Kn_K10 L_L4 L_L5 0.9879261363828
Kn_K11 L_L4 L_L6 -0.126092750946
Kn_K12 L_L5 L_L6 0.029118754391
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_21 1 2 3 4 REF
C_C1 1 REF 0.3855964460173pf
C_C2 1 2 32.536172290091pf
C_C3 1 4 0.4150616787597pf
C_C4 2 REF 0.8519652833176pf
C_C5 2 3 0.1748897845635pf
C_C6 3 REF 1.0440059743716pf
C_C7 4 REF 1.0379657920069pf
R_R1 1 2 553.74036076738
L_L1 1 5 0.8835568581717nh
R_RL1 5 2 0.0083925251793
L_L2 3 6 1.2888992417246nh
R_RL2 6 4 -1.251275251e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_22 1 2 3 4 REF
C_C1 1 REF 0.505085296193pf
C_C2 1 2 16.875720184128pf
C_C3 1 3 0.0691279038779pf
C_C4 1 4 0.2422170879444pf
C_C5 2 REF 0.7438074886191pf
C_C6 2 3 0.1156885928925pf
C_C7 3 REF 1.0433374674343pf
C_C8 4 REF 1.035414309885pf
L_L1 1 5 1.2569496857882nh
R_RL1 5 2 -5.82632617e-3
L_L2 3 6 1.286479173389nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_23 1 2 3 4 REF
C_C1 1 REF 0.5567603130834pf
C_C2 1 2 10.60442266115pf
C_C3 1 3 0.100308329444pf
C_C4 1 4 0.1704026765874pf
C_C5 2 REF 0.70459870787pf
C_C6 2 3 0.0887827079725pf
C_C7 2 4 0.0302841746686pf
C_C8 3 REF 1.042372403838pf
C_C9 4 REF 1.0335702369198pf
L_L1 1 5 1.6821708514674nh
R_RL1 5 2 0.0379332022748
L_L2 3 6 1.2837816584719nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_24 1 2 3 4 REF
C_C1 1 REF 0.5836970889797pf
C_C2 1 2 8.2366176872166pf
C_C3 1 3 0.1214578979443pf
C_C4 1 4 0.1391382417417pf
C_C5 2 REF 0.6991213890399pf
C_C6 2 3 0.0730019297418pf
C_C7 2 4 0.0671936853752pf
C_C8 3 REF 1.0408986773651pf
C_C9 4 REF 1.031493653033pf
L_L1 1 5 1.8424921518299nh
R_RL1 5 2 0.0103376033905
L_L2 3 6 1.2802981242266nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_25 1 2 3 4 REF
C_C1 1 REF 0.5977224950302pf
C_C2 1 2 7.7643090350783pf
C_C3 1 3 0.1444045308883pf
C_C4 1 4 0.1232493968413pf
C_C5 2 REF 0.7107118402823pf
C_C6 2 3 0.0568607344841pf
C_C7 2 4 0.0902291539698pf
C_C8 3 REF 1.0389707959263pf
C_C9 4 REF 1.028994025376pf
L_L1 1 5 1.8678091424907nh
R_RL1 5 2 -3.691743129e-4
L_L2 3 6 1.2760230999311nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_26 1 2 3 4 REF
C_C1 1 REF 0.6008209305363pf
C_C2 1 2 8.353166341004pf
C_C3 1 3 0.1646436006995pf
C_C4 1 4 0.1170976038678pf
C_C5 2 REF 0.7278164551391pf
C_C6 2 3 0.0420766354434pf
C_C7 2 4 0.1020930089965pf
C_C8 3 REF 1.0374128361251pf
C_C9 4 REF 1.0270070238984pf
L_L1 1 5 1.7572853380739nh
R_RL1 5 2 3.074986733e-5
L_L2 3 6 1.274189791688nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param05_26

